US06344459B1
To a solution of 3-morpholinopropan-1-ol (8.40 mmol, 1.22 g) in THF (40 mL) under N2 was added sodium metal (11.8 mmol, 0.27 g). The resulting suspension was stirred at 20° C. for 2 hours and then cannulated into a solution of 7-fluoro-4-[(3-methylphenyl)amino]-6-nitroquinazoline (0.70 g, 2.35 mmol) in THF (30 mL) under N2. The reaction procedure and workup above were followed to give after chromatography on silica gel eluting with MeOH/CH2Cl2/EtOAc (5:45:50) to MeOH/CH2C0.50/EtOAc (3:7:10) 4-[(3-methylphenyl)amino]-7-[(3-morpholino)propyloxy]-6-nitroquinazoline (0.87 g, 88%) as a yellow powder, mp (CH2Cl2/hexane) 169-170° C.

reactant | 3-morpholinopropan-1-ol | 8.40 mmol, 1.22 g | O1CCN(CC1)CCCO | C7H15NO2
reactant | sodium | 11.8 mmol, 0.27 g | [Na] | Na
reactant | 7-fluoro-4-[(3-methylphenyl)amino]-6-nitroquinazoline | 2.35 mmol, 0.70 g | FC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=CC=C1)C)[N+](=O)[O-] | C15H11FN4O2
reactant | MeOH CH2Cl2 EtOAc | CO.C(Cl)Cl.CCOC(=O)C
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 hexane | C(Cl)Cl.CCCCCC
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | CO | CH4O
product | 4-[(3-methylphenyl)amino]-7-[(3-morpholino)propyloxy]-6-nitroquinazoline | 0.87 g, 88% | CC=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])OCCCN1CCOCC1 | C22H25N5O4
